US06166011
4-Fluoro-1,3-dihydro-2H-1,3-benzimidazole-2-one
The title compound was prepared by the method of Preparation 24 from 1,2-diamino-3-fluorobenzene [J.O.C. 1969, 34(2), 384] and 1,1'-carbonyldimidazole.

reactant | 1,2-diamino-3-fluorobenzene | NC1=C(C(=CC=C1)F)N | C6H7FN2
reactant | 1,1'-carbonyldimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 4-Fluoro-1,3-dihydro-2H-1,3-benzimidazole-2-one | FC1=CC=CC=2NC(NC21)=O | C7H5FN2O
